US08278341B2
2,10-difluoro-6-methoxy-N-methyl-5,7-dihydroindolo[2,3-b]carbazol-12-amine
The title compound was prepared in a manner analogous to Example 133. This compound was obtained by heating di-tert-butyl 12-bromo-2,10-difluoro-6-methoxyindolo[2,3-b]carbazole-5,7-dicarboxylate and MeNH2 in a bomb, in the presence of Pd(OAc)2, BINAP, and NaOtBu at 80° C. overnight. 1H NMR (400 MHz, DMSO-d6) δ ppm 11.17 (s, 2H), 8.06 (dd, J=10.2, 2.6 Hz, 2H), 7.39 (dd, J=8.8, 4.4 Hz, 2H), 7.14 (td, J=9.2, 2.4 Hz, 2H), 4.77 (q, J=5.6 Hz, 1H), 4.00 (s, 3H), 3.01 (d, J=5.6 Hz, 3H).

reactant | di-tert-butyl 12-bromo-2,10-difluoro-6-methoxyindolo[2,3-b]carbazole-5,7-dicarboxylate | BrC1=C2C(=C(C=3N(C4=CC=C(C=C4C13)F)C(=O)OC(C)(C)C)OC)N(C=1C=CC(=CC12)F)C(=O)OC(C)(C)C | C29H27BrF2N2O5
reactant | MeNH2 | CN | CH5N
reactant | BINAP | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | NaOtBu | CC(C)(C)[O-].[Na+]
catalyst | Pd(OAc)2 | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 2,10-difluoro-6-methoxy-N-methyl-5,7-dihydroindolo[2,3-b]carbazol-12-amine | FC=1C=C2C=3C(=C4C(=C(C3NC2=CC1)OC)NC=1C=CC(=CC14)F)NC | C20H15F2N3O
